Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Ativan / scopolamine / cefepime
 
Attending: ___.
 
Chief Complaint:
Wound breakdown
 
Major Surgical or Invasive Procedure:
___: Wound I&D, mesh removal

 
History of Present Illness:
Patient is a ___ y/o woman presenting after discovery of
post-operative wound break-down.  She experienced a cerebellar
bleed from an AVM which was embolized and then followed by
resection a bit over one year ago

 
Past Medical History:
PMHx: osteoporosis, UTI, nephrolithiasis, anemia, leukopenia,
immunosuppression, hip replacement, cataract surgery, retinal
detachment, hysterectomy, appendectomy

 
Social History:
___
Family History:
No history of brain hemorrhage

 
Physical Exam:
==================
ON ADMISSION
==================
PHYSICAL EXAM:
O: T: 98.4 BP: 125/65 HR: 65   R: 16       O2Sats: 100%
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: left pupil anisocoric from retinal detachment,
right pupil ___
EOMs: intact
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.

Cranial Nerves:
I: Not tested
II: Pupils: left pupil anisocoric from retinal detachment, right
pupil ___
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric;
persistent drool.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger on right; left
tremulous with jerky movements

wound: fully broken-down with mesh visible 

==================
ON DISCHARGE
==================

Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: left pupil anisocoric from retinal detachment,
right pupil ___ and brisk 
EOMs: intact

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date. 
Language: Speech is slow, dysarthric at baseline. Good 
comprehension and repetition.  Naming intact. No paraphasic 
errors.

Cranial Nerves:
I: Not tested
II: Pupils: left pupil anisocoric from retinal detachment, right
pupil ___
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact, however asymmetric 
with baseline left droop and persistent drool.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor:  No abnormal movements, tremors. Strength full power ___ 
throughout. No pronator drift

Sensation: Intact to light touch

Incision is clean, dry, and intact without erythema. 
 
Pertinent Results:
___ CHEST (PRE-OP PA & LAT)
IMPRESSION:  9 mm left upper lung pulmonary nodule for which 
nonemergent chest CT is recommended.  A questionable nodular 
opacity at the right lung base may also be assessed at that 
time. 
RECOMMENDATION(S):  Nonemergent chest CT is recommended for 
further evaluation of a 9 mm left upper lung pulmonary nodule. 

___ CT HEAD W/ & W/O CONTRAST 
IMPRESSION: Skin breakdown overlying the suboccipital 
craniectomy mesh with subjacent air. No evidence of intradural 
extension. 

___    CT CHEST W & W/O CONTRAST    
No pulmonary nodule corresponding to the abnormality seen on the 
chest 
radiograph. 
Potential bibasal aspirations versus infection. 
Mild cylindric bronchiectasis.  3 mm right para fissure all 
nodule that should be reassessed in ___ year. 
Liver hemangiomas. 
Suggestion of renal pelvic fullness that should be further 
assessed with 
ultrasound. 

 
Brief Hospital Course:
On ___, the patient was admitted directly from outpatient 
clinic with breakdown of her posterior craniotomy incision with 
visible hardware.  She was admitted and pre-op workup was 
completed with plans to go to the OR ___ for wound washout and 
mesh removal. 

On ___, the patient went to the OR for wound washout and mesh 
removal. Her operative course was uncomplicated and she was 
transferred to PACU in stable condition.

On ___, the patients was alert and oriented to person, place 
and time. Her right pupil was 4mm and surgical, and her left was 
4mm asnd sluggish. Her motor exam was full strength in her left 
upper and left lower extremity. Her right deltoid, bicep and 
tricep were ___, and right grip was ___. Her right IP/Quad and 
hamstring were 4+/5, her right distal lower extremity was ___. 
The patient was noted to have itchy red areas on her lower 
extremities, the infectious disease team was at the bedside and 
suggested the patients Cefepime should be discontinued. She was 
given 12.5 mg of Benadryl. A Chest CT was ordered to further 
assess an incidental finding of a left upper lung nodule. A 
speech and swallow consult was also ordered as the patient was 
noted to be coughing when drinking liquids and the patient was 
frequently drooling which is from the patients previous CVA in 
___. The patients JP drain was discontinued and she continued 
in the step down unit. 

On ___, the patients neurological exam remained stable. Tissue 
cultures from the OR taken on ___ were growing out gram + 
bacteria, ID was notified and a PICC was ordered as the patient 
would likely need antibiotics for an extended length of time. 
The patient was moved out of the step down unit and her 
telemetry was discontinued. The patient was endorsing urinary 
frequency therefore a repeat urine analysis and urine culture 
were ordered. 

On ___, the patient underwent ___ placement awaiting culture 
data, ID recs dapto x 4 weeks, will place note with dosing in 
chart. She remained neurologically stable throughout the day. 

On ___, the patient's neurological exam remained unchanged. 
Disposition planning was underway, and discussions with 
Infectious Disease for alternatives to Daptomycin took place due 
to prohibitive pricing of daptomycin.  

On ___, the patient remained neurologically stable. Continued 
to await updated recommendations from ID to facilitate 
outpatient administration. 

On ___, the patient's neurological exam was stable. Infectious 
disease approved use of vancomycin for treatment course. The 
patient was deemed stable and ready for discharge to a skilled 
nursing facility. 

 
Medications on Admission:
Denosumab, etanercept, folic acid, gabapentin, glucagon, heparin 
5000u Q12H, levothyroxine 88mgc, lorazepam, methotrexate, 
methylphenidate, omeprazole, ondansetron, oxycodone, 
prochlorperazine, sertraline, sorbitol, tamsulosin, Vitamin D, 
acetaminophen, bisacodyl, dextrose, Colace, topical lidocaine, 
senna
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
3. Famotidine 20 mg PO BID 
4. Gabapentin 100 mg PO BID 
5. Heparin 5000 UNIT SC BID 
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Lisinopril 2.5 mg PO DAILY 
8. Senna 17.2 mg PO QHS:PRN constipation 
9. Sertraline 50 mg PO DAILY 
10. Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 
11. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
12. Vancomycin 750 mg IV Q 12H 
13. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 7 
Days 
LAST DOSE ON ___ 
14. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
15. LOPERamide 2 mg PO QID:PRN diarrhea  
16. HydrALAZINE ___ mg IV Q6H PRN SBP > 160 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Wound infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires occasional assistance or 
aid (walker or cane).

 
Discharge Instructions:
Surgery
•You underwent surgery to remove mesh and wash out your wound.
•You may shower at this time but keep your incision dry.
•It is best to keep your incision open to air but it is ok to 
cover it when outside. 
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 

•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may experience headaches and incisional pain. 
•You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
•You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
•Feeling more tired or restlessness is also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

 
Followup Instructions:
___